US04005147
50 Parts of 3,3-dimethyl-acrolein and 100 parts of acetone are heated with 12 parts of a catalyst (which has been prepared by calcining a mixture of equimolar amounts of magnesium oxide, molybdenum dioxide and zinc oxide) for 3 hours at 180° C and a pressure of 30 atmospheres and the product is subjected to fractional distillation. 27 Parts of 2-methyl-2,4-heptadien-6-one is obtained which is equivalent to a yield of 43% of theory at a conversion of 86% based on 3,3-dimethyl-acrolein.

reactant | 3,3-dimethyl-acrolein | CC(=CC=O)C | C5H8O
reactant | magnesium oxide | [O-2].[Mg+2]
reactant | acetone | CC(=O)C | C3H6O
catalyst | molybdenum dioxide | [Mo](=O)=O
catalyst | zinc oxide | [O-2].[Zn+2]
product | 2-methyl-2,4-heptadien-6-one | yield of 43% | CC(C)=CC=CC(C)=O | C8H12O
